US07288537B2
A solution of (S)-3-tert-Butoxycarbonylamino-4-methoxy-butyric acid benzyl ester (10.4 g, 32.3 mmol) in dry diethylether (70 ml) cooled to 0° C. is treated slowly with a 2.0 M solution of LiBH4 in THF (32.2 ml, 64.4 mmol). The reaction mixture is allowed to warm to ambient temperature and then left to stir. After 6 hours the reaction mixture is quenched slowly with 0.5 M aqueous solution of citric acid and extracted with ether. The ether phase is dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (elution with a gradient 3:7 to 6:4 ethylacetate/hexane) to afford ((S)-3-Hydroxy-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester as a clear oil. [M-BOC] 120.13

reactant | (S)-3-tert-Butoxycarbonylamino-4-methoxy-butyric acid benzyl ester | 32.3 mmol, 10.4 g | C(C1=CC=CC=C1)OC(C[C@@H](COC)NC(=O)OC(C)(C)C)=O | C17H25NO5
reactant | LiBH4 | [Li+].[BH4-]
reactant | THF | 64.4 mmol, 32.2 ml | C1CCOC1 | C4H8O
solvent | diethylether | 70 ml | C(C)OCC | C4H10O
product | ((S)-3-Hydroxy-1-methoxymethyl-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCO)COC)=O | C10H21NO4
